US08937176B2
6.02.06.04 (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid lithium salt
1.1 mL 1M aqueous lithiumhydroxide solution was added to 300 mg (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid ethyl ester in 10 mL dioxane. The reaction was stirred 2 h at RT and evaporated to give 270 mg desired product. Rt: 1.09 min (method B), (M+H)+: 315

reactant | lithiumhydroxide | 1M, 1.1 mL | [OH-].[Li+]
reactant | (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid ethyl ester | 300 mg | C(C)OC(CC=1N(C=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C19H16F2N2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid lithium salt | 270 mg | [Li+].FC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)F)CC(=O)[O-] | InChI=1S/C17H12F2N2O2.Li/c18-12-3-1-11(2-4-12)15-10-21(16(20-15)9-17(22)23)14-7-5-13(19)6-8-14;/h1-8,10H,9H2,(H,22,23);/q;+1/p-1
